US06794528B2
Into a two-neck flask (100 ml) were fed 15.9 g (128 mmol) of 4-vinylcyclohexene-1,2-epoxide, 40 ml of water, 20 ml of acetone, and 40 μl of sulfuric acid, and the reaction mixture was refluxed at 75° C. for 4 hours. After complete reaction, an object compound was extracted with each 60 ml of diethylether four times, and was washed with saturated salt solution, and then was dried with sodium sulfate. The solvent was evaporated to obtain 1,2-dihydroxy-4-vinylcyclohexane.

reactant | 4-vinylcyclohexene-1,2-epoxide | 128 mmol, 15.9 g | C=CC1CCC2C(C1)O2 | C8H12O
reactant | water | 40 ml | O | H2O
reactant | sulfuric acid | 40 μl | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1,2-dihydroxy-4-vinylcyclohexane | OC1C(CC(CC1)C=C)O | C8H14O2
